US07649093B2
Step 1: 1-[3-(methyloxy)phenyl]-2-propanol (1)
To a cold solution (5° C.) of 1-[3-(methyloxy)phenyl]-2-propanone (75 g, 0.457 mol) in MeOH (500 mL) was added NaBH4 (19 g, 0.502 mol) portion-wise over a period of 0.5 h. The resultant mixture was stirred at that temperature for 1 h. Reaction mixture was quenched with 1 N aqueous HCl (250 mL) and concentrated under reduced pressure to remove most of the methanol. The reaction mixture was extracted with EtOAc (3×150 mL). The combined organic layer was washed with water (1×100 mL), brine (1×100 mL), dried (Na2SO4) and concentrated under reduced pressure to afford the crude product. The reaction mixture was just passed through a pad of silica gel and washed with 1:1 hexanes:EtOAc to afford 75 g (99%) of the title compound. 1H NMR (400 MHz, CDCl3): δ 7.24-7.20 (m, 1H), 6.80-6.75 (m, 3H), 4.02-3.97 (m, 1H), 3.79 (s, 3H), 2.78-2.63 (m, 2H), 1.25-1.19 (m, 3H).

reactant | 1-[3-(methyloxy)phenyl]-2-propanone | 0.457 mol, 75 g | COC=1C=C(C=CC1)CC(C)=O | C10H12O2
reactant | NaBH4 | 0.502 mol, 19 g | [BH4-].[Na+]
solvent | MeOH | 500 mL | CO | CH4O
product | 1-[3-(methyloxy)phenyl]-2-propanol | 75 g, 99% | COC=1C=C(C=CC1)CC(C)O | C10H14O2
